* LDO 

.include ~/mabrains/skywater-pdk/libraries/sky130_fd_pr/latest/models/corners/tt.spice


.param D_S_length = 1


Xb mirror inp dcm dcm sky130_fd_pr__nfet_01v8 L={Linp} W={Winp} AS={D_S_length*Winp} AD={D_S_length*Winp} PS={2*(D_S_length+Winp)} PD={2*(D_S_length+Winp)}
Xpmirror mirror mirror vdd vdd sky130_fd_pr__pfet_01v8 L={Lpmirror} W={Wpmirror} AS={D_S_length*Wpmirror} AD={D_S_length*Wpmirror} PS={2*(D_S_length+Wpmirror)} PD={2*(D_S_length+Wpmirror)}


.control
op
print V(out1) V(dcm) V(out2) V(mirror) V(bias) V(ldo) V(inn)

ac dec 20 1 1G
plot 20*log10(V(out1)) 20*log10(V(out2))
.endc
.end



