* telescopic cascode ota

.include ~/mabrains/skywater-pdk/libraries/sky130_fd_pr/latest/models/corners/tt.spice

.param D_S_length = 1

*input
.param Linp = 1
.param Winp = 2

.param Linn = 1
.param Winn = 2

* input cascode
.param Lcnp = 2
.param Wcnp = 5

.param Lcnn = 2
.param Wcnn = 5

* pmos load n
.param Llpn1= .15
.param Wlpn1 = 1

.param Llpn2= .15
.param Wlpn2 = 40

* pmos load p
.param Llpp1= .15
.param Wlpp1 = 1

.param Llpp2= .15
.param Wlpp2 = 40

*** mirror ota
.param Lmota1= 1
.param Wmota1 = 5
.param nfmota1 = 1.0

.param Lmota2 = 1
.param Wmota2 = 5
.param nfmota2 = 1.0



******ota

*** input
Xinp inp_d inp dcm gnd sky130_fd_pr__nfet_01v8 L={Linp} W={Winp} AS={D_S_length*Winp} AD={D_S_length*Winp} PS={2*(D_S_length+Winp)} PD={2*(D_S_length+Winp)}
Xinn inn_d inn dcm gnd sky130_fd_pr__nfet_01v8 L={Linn} W={Winn} AS={D_S_length*Winn} AD={D_S_length*Winn} PS={2*(D_S_length+Winn)} PD={2*(D_S_length+Winn)}

*** input cascode
Xcnp acm vncas inp_d gnd sky130_fd_pr__nfet_01v8 L={Lcnp} W={Wcnp} AS={D_S_length*Wcnp} AD={D_S_length*Wcnp} PS={2*(D_S_length+Wcnp)} PD={2*(D_S_length+Wcnp)}
Xcnn out vncas inn_d gnd sky130_fd_pr__nfet_01v8 L={Lcnn} W={Wcnn} AS={D_S_length*Wcnn} AD={D_S_length*Wcnn} PS={2*(D_S_length+Wcnn)} PD={2*(D_S_length+Wcnn)}

***pmos load n
Xlpn1 pln_node acm vdd vdd sky130_fd_pr__pfet_01v8 L={Llpn1} W={Wlpn1} AS={D_S_length*Wlpn1} AD={D_S_length*Wlpn1} PS={2*(D_S_length+Wlpn1)} PD={2*(D_S_length+Wlpn1)}
Xlpn2 out vpcas pln_node vdd sky130_fd_pr__pfet_01v8 L={Llpn2} W={Wlpn2} AS={D_S_length*Wlpn2} AD={D_S_length*Wlpn2} PS={2*(D_S_length+Wlpn2)} PD={2*(D_S_length+Wlpn2)}

*** pmos load p
Xpp1 plp_node acm vdd vdd sky130_fd_pr__pfet_01v8 L={Llpp1} W={Wlpp1} AS={D_S_length*Wlpp1} AD={D_S_length*Wlpp1} PS={2*(D_S_length+Wlpp1)} PD={2*(D_S_length+Wlpp1)}
Xlpp2 acm vpcas plp_node vdd sky130_fd_pr__pfet_01v8 L={Llpp2} W={Wlpp2} AS={D_S_length*Wlpp2} AD={D_S_length*Wlpp2} PS={2*(D_S_length+Wlpp2)} PD={2*(D_S_length+Wlpp2)}

*** mirror ota
Xmota1 dcm vbn1 mirr_ota_node gnd sky130_fd_pr__nfet_01v8 nf={nfmota1} L={Lmota1} W={Wmota1} AS={D_S_length*Wmota1} AD={D_S_length*Wmota1} PS={2*(D_S_length+Wmota1)} PD={2*(D_S_length+Wmota1)}
Xmota2 mirr_ota_node vbn2 gnd gnd sky130_fd_pr__nfet_01v8 nf={nfmota2} L={Lmota2} W={Wmota2} AS={D_S_length*Wmota2} AD={D_S_length*Wmota2} PS={2*(D_S_length+Wmota2)} PD={2*(D_S_length+Wmota2)}

***mirror voltage 

Vmn1 vbn1 0  DC 0.8
Vmn2 vbn2 0  DC 0.65
Vmn3 vncas 0 DC 1.3
vbp vpcas 0  DC 0.8







